US04963566
To a solution of 6,7-dihydro-3-oxo-7-(N-methyl-N-allylamino)-1H,3H,5H-pyrido[3,2,1-ij][3,1]benzoxazine (5.89 g) in methanol (80 ml) was added 15% aqueous solution of sodium hydroxide (20 ml) and the mixture was refluxed for 6 hours. After distilling off methanol and extracting with dichloromethane, the extract was dried over anhydrous magnesium sulfate. The solvent was distilled off to give 4-(N-methyl-N-allylamino)-8-hydroxymethyl-1,2,3,4-tetrahydroquinoline (4.83 g).

reactant | 6,7-dihydro-3-oxo-7-(N-methyl-N-allylamino)-1H,3H,5H-pyrido[3,2,1-ij][3,1]benzoxazine | 5.89 g | O=C1N2C3=C(CO1)C=CC=C3C(CC2)N(CC=C)C | C15H18N2O2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 4-(N-methyl-N-allylamino)-8-hydroxymethyl-1,2,3,4-tetrahydroquinoline | 4.83 g | CN(CC=C)C1CCNC2=C(C=CC=C12)CO | C14H20N2O
